US07951977B2
Synthesis of 4-benzyloxybutanol
A mixture of toluene (50 ml), 1,4-butanediol (212 g, 2.35 mol) and sodium hydroxide (47.7 g) was heated up to 95° C., and thermally insulated at the same temperature for 30 minutes. Thereafter, benzyl chloride (150 g, 1.185 mol) was added and the mixture was thermally insulated at 95 to 105° C. for 4 hours, then, poured into water (250 ml). After neutralization with 35% hydrochloric acid, the organic layer was liquid-partitioned and the aqueous layer was extracted with toluene (100 ml). The organic layers were combined and washed with saline (100 ml). The organic layer was concentrated under reduced pressure, and the residue was distilled under reduced pressure, to obtain a title compound (115 g, yield 53.8%).

reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1,4-butanediol | 2.35 mol, 212 g | C(CCCO)O | C4H10O2
reactant | sodium hydroxide | 47.7 g | [OH-].[Na+]
reactant | benzyl chloride | 1.185 mol, 150 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 250 ml | O | H2O
product | 4-benzyloxybutanol | 115 g, yield 53.8% | C(C1=CC=CC=C1)OCCCCO | C11H16O2
